US08258160B2
Preparation of 2-azido-N-benzyl-4-methylthiazole-5-carboxamide
A solution of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide (1.20 g, 4.86 mmol), tosyl azide (1.91 g, 9.71 mmol) and benzyl trimethylammonium chloride (0.05 g, 0.27 mmol) in dichloromethane (21 mL) and 40% aqueous sodium hydroxide solution (11 mL) was stirred at ambient temperature for 18 h. The reaction mixture was extracted with dichloromethane (100 mL). The separated organic layer was dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate:hexanes, 1:4) to afford the title compound (0.83 g, 63%): MS (ES−) m/z 272.2 (M−1).

reactant | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | 4.86 mmol, 1.20 g | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
reactant | tosyl azide | 9.71 mmol, 1.91 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
catalyst | benzyl trimethylammonium chloride | 0.27 mmol, 0.05 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 21 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 11 mL | [OH-].[Na+]
product | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | 0.83 g, 63% | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
